US09029560B2
Preparation of 1-[(2-isopropylphenyl)carbamothioyl]-3-[2-[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]ethyl]urea (PC76)
The title compound was prepared as described in Example 75 using 3-(3-(2-isocyanatoethyl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (CA44) and 1-(2-isopropylphenyl)thiourea isolated as a white solid (0.033 g, 11%): 1H NMR (400 MHz, DMSO-d6) δ 11.95 (s, 1H), 10.14 (s, 1H), 9.42 (s, 1H), 8.14-8.05 (m, 2H), 8.05-7.94 (m, 2H), 7.68-7.57 (m, 2H), 7.49 (t, J=7.6 Hz, 1H), 7.39 (dq, J=7.8, 1.5 Hz, 2H), 7.34 (dd, J=7.8, 1.6 Hz, 1H), 7.26 (td, J=7.5, 1.5 Hz, 1H), 7.20 (td, J=7.5, 1.6 Hz, 1H), 7.03 (t, J=5.7 Hz, 1H), 3.47 (q, J=6.6 Hz, 2H), 2.98 (p, J=6.9 Hz, 1H), 2.89 (t, J=6.9 Hz, 2H), 1.15 (d, J=6.8 Hz, 6H); 19F NMR (376 MHz, DMSO-d6) δ −56.96; ESIMS m/z 569 ([M+H]+), 567 ([M−H]−).

reactant | 3-(3-(2-isocyanatoethyl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | N(=C=O)CCC=1C=C(C=CC1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C18H13F3N4O2
reactant | 1-(2-isopropylphenyl)thiourea | C(C)(C)C1=C(C=CC=C1)NC(=S)N | C10H14N2S
product | 1-[(2-isopropylphenyl)carbamothioyl]-3-[2-[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]ethyl]urea | C(C)(C)C1=C(C=CC=C1)NC(=S)NC(=O)NCCC1=CC(=CC=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C28H27F3N6O2S
